US07071175B1
To a solution of 6-amino-nicotinic acid ethyl ester (36.0 g 217.0 mmol) in t-BuOH (308 mL) and acetone (103 mL) was added DMAP (0.53 g, 4.34 mmol) and di-t-butyl dicarbonate (72.0 g, 330 mmol). The reaction was stirred at room temperature for 10 h followed by addition of more di-t-butyl dicarbonate (2.60 g). After 10 h stirring at room temperature hexane (470 mL) was added. The reaction mixture was cooled to −20° C. for 2 h and filtered. The filtrate was washed with hexane/dichloromethane (3:1) and and dried in vacuo to give 6-tert-butoxycarbonylamino-nicotinic acid ethyl ester (40.5 g, 70%).

reactant | 6-amino-nicotinic acid ethyl ester | 217.0 mmol, 36.0 g | C(C)OC(C1=CN=C(C=C1)N)=O | C8H10N2O2
reactant | di-t-butyl dicarbonate | 330 mmol, 72.0 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | hexane | 470 mL | CCCCCC | C6H14
solvent | t-BuOH | 308 mL | CC(C)(C)O | C4H10O
solvent | acetone | 103 mL | CC(=O)C | C3H6O
catalyst | DMAP | 4.34 mmol, 0.53 g | CN(C)C=1C=CN=CC1 | C7H10N2
catalyst | di-t-butyl dicarbonate | 2.60 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
product | 6-tert-butoxycarbonylamino-nicotinic acid ethyl ester | 40.5 g, 70% | C(C)OC(C1=CN=C(C=C1)NC(=O)OC(C)(C)C)=O | C13H18N2O4
